US09290517B2
Step F 6-chloro-5-iodo-2-(methysulfonyl)-1H-imidazo[4,5-b]pyridine
Oxone (20.8 g, 33.8 mmol) was added to an acetonitrile (100 mL)/water (100 mL) suspension of 6-chloro-5-iodo-2-(methysulfanyl)-1H-imidazo[4,5-b]pyridine (5.0 g, 15.4 mmol) and the reaction was allowed to stir for 18 h at rt. The suspension was filtered through a sintered glass funnel and the filtrate was partitioned between ethyl acetate and saturated sodium bisulfate. The ethyl acetate layer was washed with brine, dried over magnesium sulfate and concentrated to afford the title compound as a white solid that was used in subsequent steps without further purification. LC-MS: calculated for C7H5ClN3O2S 357.56, observed m/e: 357.07 (M+H)+ (Rt 1.36/4 min) 1H NMR δ (ppm)(DMSO-d6): 8.44 (1H, s), 3.53 (3H, s).

reactant | Oxone | 33.8 mmol, 20.8 g | OOS(=O)[O-].[K+]
reactant | acetonitrile | 100 mL | C(C)#N | C2H3N
reactant | 6-chloro-5-iodo-2-(methysulfanyl)-1H-imidazo[4,5-b]pyridine | 15.4 mmol, 5.0 g | ClC=1C=C2C(=NC1I)N=C(N2)SC | C7H5ClIN3S
solvent | water | 100 mL | O | H2O
product | 6-chloro-5-iodo-2-(methysulfonyl)-1H-imidazo[4,5-b]pyridine | ClC=1C=C2C(=NC1I)N=C(N2)S(=O)(=O)C | C7H5ClIN3O2S
